US05155122
4-[3-(Dimethylamino)-1,2,4-oxadiazol-5-yl]-2,6-bis(1,1-dimethylethyl)phenol
To a stirred mixture of 2.0 g (0.0069 mole) of 4-(3-amino-1,2,4-oxadiazol-5-yl)-2,6-bis(1,1-dimethylethyl)phenol and 2.0 g (0.0067 mole) of paraformaldehyde in 45 ml of glacial acetic acid (under a nitrogen atmosphere) is added 2.0 g (0.032 mole) of sodium cyanoborohydride, in portions over ten minutes. The mixture is stirred at room temperature for 24 hours, then cooled in ice and treated cautiously with 250 ml of ice water. Solid sodium carbonate is added until the reaction mixture becomes slightly basic. The mixture is extracted with ethyl acetate (4×100 ml), and the combined organic layers are washed with brine (2×200 ml), dried (anhydrous sodium sulfate), and evaporated. Recrystallization of the residue from aqueous methanol yields 1.0 g (45% yield) of the analytically pure product, mp 135°-138°.

reactant | 4-(3-amino-1,2,4-oxadiazol-5-yl)-2,6-bis(1,1-dimethylethyl)phenol | 0.0069 mole, 2.0 g | NC1=NOC(=N1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C16H23N3O2
reactant | paraformaldehyde | 0.0067 mole, 2.0 g | C=O | CH2O
reactant | sodium cyanoborohydride | 0.032 mole, 2.0 g | C(#N)[BH3-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
product | 4-[3-(Dimethylamino)-1,2,4-oxadiazol-5-yl]-2,6-bis(1,1-dimethylethyl)phenol | 45% yield | CN(C1=NOC(=N1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C | C18H27N3O2
